US05502072
3-(exo-Bicyclo 2.2.1!hept-2-yloxy)-4-methoxybenzaldehyde (677 mg, 2.75 mmol; disclosed in WO 87/06576 published Nov. 5, 1987), and 5-chloro-1-methyloxindole (500 mg, 2.75 mmol; Chemical Abstracts registry number 41192-33-0, were dissolved in 10 ml of methanol under an inert atmosphere. To this brown, homogeneous mixture was added 0.23 ml of pyrrolidine (2.75 mmol) via syringe. The reaction mixture was stirred at room temperature for ten hours. The solvent was then stripped off and the resulting yellow oil was purified via flash chromatography (1:1 ethyl ether/hexane) to provide the desired Z-adduct 3- 3-(bicyclo 2.2.1!hept-2-yloxy)-4-methoxyphenyl!methylene!-5-chloro-1,3-dihydro-1-methyl- 1α,2α(Z),4α!-2H-indol-2-one (125 mg, 11% yield) as a yellow solid (Example 1): m.p. 149°-151°. Analysis calculated for C24H24ClNO3 : C, 70.32; H, 5.90; N, 3.42. Found: C, 70.26; H, 5.87; N, 3.38. The corresponding E-adduct 3- 3-(bicyclo 2.2.1!hept-2-yloxy)-4-methoxyphenyl!methylene!-5-chloro-1,3-dihydro-1-methyl- 1α,2α(E),4α!-2H-indol-2-one (Example 2) was also obtained in 6% yield, m.p. 142°-144° C. Analysis calculated for C24H24ClNO3 : C, 70.32; H, 5.90; N, 3.42. Found: C, 70.34; H, 5.85; N, 3.36.

reactant | 4-methoxybenzaldehyde | 2.75 mmol, 677 mg | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 5-chloro-1-methyloxindole | ClC=1C=C2CC(N(C2=CC1)C)=O | C9H8ClNO
reactant | pyrrolidine | 2.75 mmol, 0.23 ml | N1CCCC1 | C4H9N
solvent | methanol | 10 ml | CO | CH4O
product | 2H-indol-2-one | 125 mg, 11% yield | N=1C(C=C2C=CC=CC12)=O | C8H5NO
